US07262212B2
2-Chloro-4-nitro-1H-imidazole (3.7 g, 25.1 mmol), ethyl (S)-1-(2-methyloxiran-2-ylmethyl)piperidine-4-carboxylate (4.8 g, 21.1 mmol) and sodium hydrogencarbonate (2.2 g, 25.1 mmol) in ethanol (25 ml) were stirred under reflux overnight. The reaction mixture was concentrated under reduced pressure. To the residue, water was added, and the solution was extracted with methylene chloride. The organic phase was washed with a saturated saline solution, dried over magnesium sulfate and then filtered. The resulting filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) and crystallized from diethyl ether to afford ethyl (S)-1-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperidine-4-carboxylate (1.4 g, yield 20%) as a white powder.

reactant | 2-Chloro-4-nitro-1H-imidazole | 25.1 mmol, 3.7 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | ethyl (S)-1-(2-methyloxiran-2-ylmethyl)piperidine-4-carboxylate | 21.1 mmol, 4.8 g | C[C@]1(OC1)CN1CCC(CC1)C(=O)OCC | C12H21NO3
reactant | sodium hydrogencarbonate | 25.1 mmol, 2.2 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl (S)-1-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperidine-4-carboxylate | 1.4 g, yield 20% | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCC(CC2)C(=O)OCC | C15H22N4O5
